US07855290B2
N-(2-Fluoro-4-{[2-({[4-(hydroxymethyl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(2-Aminopyridin-4-yl)oxy]-2-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (100 mg) was dissolved in tetrahydrofuran (1 ml) under a nitrogen atmosphere, and triethylamine (0.0724 ml) and phenyl chloroformate (0.0652 ml) were added while stirring and cooling in an ice water bath, followed by stirring at the same temperature for 1 hr. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. To the residue was added N,N-dimethylformamide (2.5 ml), and 4-piperidinemethanol (109 mg) and triethylamine (0.132 ml) were added, followed by stirring at room temperature overnight. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:5, ethyl acetate, then ethyl acetate:methanol=95:5). Crude fractions containing the target compound were concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:5, ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under reduced pressure, and to the residue were added tert-butyl methyl ether (2 ml) and heptane (4 ml) to suspend a solid. The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (98.1 mg, 73.5%).

reactant | N-{4-[(2-Aminopyridin-4-yl)oxy]-2-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 100 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C22H18F2N4O3
reactant | triethylamine | 0.0724 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0652 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | N-(2-Fluoro-4-{[2-({[4-(hydroxymethyl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 98.1 mg, 73.5% | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)CO)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C29H29F2N5O5
